US05089496
A. 8-CHLORO-5,6-DIHYDRO-11H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDIN-11-ONE N-OXIDE
To a mixture of 25.1 grams (0.103 mole) of 8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one in 175 ml of dry methylene chloride at 0° C. under an argon atmosphere was added dropwise over 70 minutes a solution of 24.12 grams of 3-chloroperoxybenzoic acid in 150 ml of methylene chloride. After the addition the solution was stirred for 1/2 hour after which the ice bath was removed. After two days the reaction was poured into 1.0 N aqueous sodium hydroxide and extracted with methylene chloride. The organic portions were combined, washed once with water, dried over magnesium sulfate, filtered and concentrated in vacuo. The resultant product was triturated with isopropyl ether and filtered to provide 25.8 grams (96%) yield of the title compound.

reactant | 8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one | 0.103 mole, 25.1 grams | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=O)C1 | C14H10ClNO
reactant | 3-chloroperoxybenzoic acid | 24.12 grams | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 8-CHLORO-5,6-DIHYDRO-11H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDIN-11-ONE N-OXIDE | ClC=1C=CC2=C(CCC=3C(=[N+](C=CC3)[O-])C2=O)C1 | C14H10ClNO2
